US08859774B2
A solution of 4-bromo-2-(trimethylsilyl)thiazole (304 μl, 1.784 mmol) in dry ether (2 mL) was added to a solution of butyllithium (2.5 M in Hexanes) (731 μl, 1.828 mmol) in dry ether (1 mL) at −78° C. The reaction mixture was stirred at −78° C. for 30 minutes. A solution of (R)-6-tert-butyl 4a-methyl 1-(4-fluorophenyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-4a,6(4H)-dicarboxylate (250 mg, 0.585 mmol) in dry ether (5 mL) was added dropwise and the reaction mixture was stirred for 0.5 hour at −78° C. then slowly warmed to −50° C. over 2 hours. Water (10 mL) was added and the reaction mixture was stirred at room temperature for 10 minutes. The aqueous layer was extracted with ethyl acetate (3×15 mL). The combined organic extracts were washed with brine (20 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to give a dark orange oil. The crude product was purified by column chromatography on silica gel (gradient: 0-40% ethyl acetate in isohexane) to afford (R)-tert-butyl 1-(4-fluorophenyl)-4a-(2-(trimethylsilyl)thiazole-4-carbonyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate as a pale yellow foamy solid (76 mg). LCMS (Method F, ES-API): RT 2.65 min, m+H=553.3.

reactant | 4-bromo-2-(trimethylsilyl)thiazole | 1.784 mmol, 304 μl | BrC=1N=C(SC1)[Si](C)(C)C | C6H10BrNSSi
reactant | butyllithium | 1.828 mmol, 2.5 M, 731 μl | C(CCC)[Li]
reactant | (R)-6-tert-butyl 4a-methyl 1-(4-fluorophenyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-4a,6(4H)-dicarboxylate | 0.585 mmol, 250 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)OC)C(=O)OC(C)(C)C | C23H26FN3O4
reactant | Water | 10 mL | O | H2O
solvent | ether | 2 mL | CCOCC | C4H10O
solvent | ether | 1 mL | CCOCC | C4H10O
solvent | ether | 5 mL | CCOCC | C4H10O
product | (R)-tert-butyl 1-(4-fluorophenyl)-4a-(2-(trimethylsilyl)thiazole-4-carbonyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate | 76 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)C=2N=C(SC2)[Si](C)(C)C)C(=O)OC(C)(C)C | C28H33FN4O3SSi
